US07700641B2
Synthesis of 1′-(diphenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
A mixture of of 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (3.00 g, 6.22 mmol), bis(pinacolato)diboron (1.80 g, 7.09 mmol), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (0.45 g, 9 mole %), and potassium acetate (5.49 g, 56.0 mmol) in anhydrous dimethyl sulfoxide (40.0 mL) was stirred at 100° C. under N2 for 16 h. The reaction mixture was diluted with water (600 mL). The aqueous mixture was extracted with ethyl acetate (3×200 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/6) to give the title compound (1.00 g, 30%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.68 (dd, 1H), 7.40-7.25 (m, 10H), 7.18 (br, 1H), 7.11 (dd, 1H), 7.06-6.91 (m, 4H), 6.50 (d, 1H), 4.99 (d, 1H), 4.74 (d, 1H), 1.27 (d, 12H); MS (ES+) m/z 530.32 (M+1).

reactant | 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 6.22 mmol, 3.00 g | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO2 | C28H20BrNO2
reactant | bis(pinacolato)diboron | 7.09 mmol, 1.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 56.0 mmol, 5.49 g | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 40.0 mL | CS(=O)C | C2H6OS
solvent | water | 600 mL | O | H2O
product | 1′-(diphenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 1.00 g, 30% | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1 | C34H32BNO4
